US04348403
A 1.43 g portion of 4-(4-chlorobenzyloxy)phenacyl chloride and 495 mg of 1-methylthiourea were stirred in 30 ml of ethanol at 70° C. for 30 minutes. After cooling, 10 ml of aqueous ammonia was added to stir at room temperature for 10 minutes. Water was added to extract with ethyl acetate. After washing with water and drying, the ethyl acetate was distilled off, thus yielding 1.47 g (89.1%) of 4-[4-(4-chlorobenzyloxy)phenyl]-2-methylaminothiazole. Recrystallization from ethyl acetate afforded crystals of m.p. 158°-159° C.

reactant | 4-(4-chlorobenzyloxy)phenacyl chloride | ClC1=CC=C(COC2=CC=C(C(CCl)=O)C=C2)C=C1 | C15H12Cl2O2
reactant | 1-methylthiourea | 495 mg | CNC(=S)N | C2H6N2S
reactant | ammonia | 10 ml | N | H3N
reactant | Water | O | H2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 4-[4-(4-chlorobenzyloxy)phenyl]-2-methylaminothiazole | 1.47 g, 89.1% | ClC1=CC=C(COC2=CC=C(C=C2)C=2N=C(SC2)NC)C=C1 | C17H15ClN2OS
